US07585886B2
A 23.8 g portion of 4-(methoxycarbonyl)phenyl (3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-phenylpyrrolidine-1-carboxylate was dissolved in 80 ml of THF, and a THF solution of TBAF (1.0 M, 76 ml) was added dropwise thereto. After 2 hours of stirring at room temperature, the reaction solution was concentrated under a reduced pressure. The residue was mixed with water and extracted with ethyl acetate, and then the extract was washed with water and saturated brine in that order and dried with anhydrous sodium sulfate. This was concentrated under a reduced pressure, and the thus obtained residue was purified by a silica gel column chromatography (ethyl acetate-chloroform) to obtain 16.6 g of 4-(methoxycarbonyl)phenyl (3R,4S)-3-(hydroxymethyl)-4-phenylpyrrolidine-1-carboxylate as a colorless amorphous substance.

reactant | 4-(methoxycarbonyl)phenyl (3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-phenylpyrrolidine-1-carboxylate | [Si](C)(C)(C(C)(C)C)OC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)OC1=CC=C(C=C1)C(=O)OC | C26H35NO5Si
reactant | TBAF | 1.0 M, 76 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 4-(methoxycarbonyl)phenyl (3R,4S)-3-(hydroxymethyl)-4-phenylpyrrolidine-1-carboxylate | 16.6 g | OC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)OC1=CC=C(C=C1)C(=O)OC | C20H21NO5
